US05356752
2nd stage: Preparation of 4-tert.-butoxycarbonyloxy-benzaldehyde bis-(2-phenoxyethyl)-acetal
A mixture of 2 g (7.45 mmol) of 4-(tert.-butoxycarbonyloxy)-benzaldehyde dimethylacetal, 2.06 g (14.9 mmol) of 2-phenoxyethanol and 40 mg of potassium hydrogensulfate was heated to the boil in 30 ml of dried toluene under a reflux condenser. After heating for 1 hour, the methanol formed was distilled off slowly, while more toluene was added to the mixture. After complete removal of the methanol, the mixture was cooled down, the potassium hydrogen sulfate catalyst was filtered off and the toluene was stripped off. The oily residue was dissolved in dichloromethane and washed with water. The organic phase was dried over magnesium sulfate. After the solvent had been stripped off under reduced pressure, the product was dried in an oil pump vacuum.

reactant | 4-(tert.-butoxycarbonyloxy)-benzaldehyde dimethylacetal | 7.45 mmol, 2 g | COC(C1=CC=C(C=C1)OC(=O)OC(C)(C)C)OC | C14H20O5
reactant | 2-phenoxyethanol | 14.9 mmol, 2.06 g | O(C1=CC=CC=C1)CCO | C8H10O2
reactant | potassium hydrogensulfate | 40 mg | S(=O)(=O)(O)[O-].[K+]
reactant | methanol | CO | CH4O
reactant | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 4-tert.-butoxycarbonyloxy-benzaldehyde bis-(2-phenoxyethyl)-acetal | O(C1=CC=CC=C1)CCOC(C1=CC=C(C=C1)OC(=O)OC(C)(C)C)OCCOC1=CC=CC=C1 | C28H32O7
